US09023846B2
STEP A: 4-Bromo-5-tert-butyl-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester
To a mixture of 5-tert-butyl-2-methyl-pyrazole-3-carboxylic acid ethyl ester (2.00 g, 9.51 mmol) and K2CO3 (3.94 g, 28.5 mmol) in DCM (120 mL), in the dark, was added Br2 (1.46 mL, 28.5 mmol) slowly under Ar. After stirring at room temperature for 3 h under Ar, the resulting mixture was quenched with saturated aqueous Na2S2O3 (50 mL). The organic layer was separated and washed with H2O (50 mL) and brine (50 mL), then dried with Na2SO4. Removal of the solvent under reduced pressure yielded a white solid. 1H-NMR (400 MHz, CDCl3) δ: 4.40 (q, J=7.1 Hz, 2H), 4.08 (s, 3H), 1.43 (t, J=7.1 Hz, 3H), 1.42 (m, 9H). Mass Spectrum (LCMS, ESI pos.) Calculated For C11H17BrN2O2: 289.1 (M+H), Measured: 289.1.

reactant | 5-tert-butyl-2-methyl-pyrazole-3-carboxylic acid ethyl ester | 9.51 mmol, 2.00 g | C(C)OC(=O)C=1N(N=C(C1)C(C)(C)C)C | C11H18N2O2
reactant | K2CO3 | 28.5 mmol, 3.94 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Br2 | 28.5 mmol, 1.46 mL | BrBr | Br2
solvent | DCM | 120 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-5-tert-butyl-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1Br)C(C)(C)C)C | C11H17BrN2O2
